US09255110B2
A suspension of 5-amino-1H-pyrazole-4-carboxylic acid (1 g, 7.8 mmol) and 2-bromomalonaldehyde (1.2 g, 7.8 mmol) in an aqueous solution of hydrochloric acid (6 M, 20 mL) was heated at 95° C. for 15 minutes. The resulting mixture was cooled to room temperature and the solid formed was collected by filtration, rinsed with water and dried in vacuum oven to give 6-bromo-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid.

reactant | 5-amino-1H-pyrazole-4-carboxylic acid | 7.8 mmol, 1 g | NC1=C(C=NN1)C(=O)O | C4H5N3O2
reactant | 2-bromomalonaldehyde | 7.8 mmol, 1.2 g | BrC(C=O)C=O | C3H3BrO2
solvent | hydrochloric acid | 6 M, 20 mL | Cl | ClH
product | 6-bromo-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | BrC=1C=NC=2N(C1)N=CC2C(=O)O | C7H4BrN3O2
